US06156700
Preparation of 3-[3-(6-Methoxy-m-tolyl)-1,2-benzisoxazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 3-[3-(6-methoxy-m-tolyl)-1,2-benzisoxazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (10.5 g, 0.0255 mol) and potassium carbonate (7.04 g, 0.051 mol) in N,N-dimethylformamide is stirred for 15 minutes, treated with methyl iodide (7.24 g, 0.051 mol), stirred overnight, and poured onto ice. The resultant aqueous mixture is extracted with methylene chloride. The organic extracts are combined, washed with water, dried over anhydrous sodium sulfate, and concentrated in vacua to obtain a brown glass. Dry column chromatography of the glass using silica gel and a hexanes/ethyl acetate solution (3:1) gives the title product as an off-white solid which is identified by NMR spectral analyses.

reactant | 3-[3-(6-methoxy-m-tolyl)-1,2-benzisoxazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.0255 mol, 10.5 g | COC1=CC=C(C=C1C)C1=NOC2=C1C=C(C=C2)N2C(NC(=CC2=O)C(F)(F)F)=O | C20H14F3N3O4
reactant | potassium carbonate | 0.051 mol, 7.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.051 mol, 7.24 g | CI | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[3-(6-Methoxy-m-tolyl)-1,2-benzisoxazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | COC1=CC=C(C=C1C)C1=NOC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C21H16F3N3O4
